Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Fever
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ year old woman with Multiple Myeloma (diagnosed 
___ s/p RVD x 4 cycles, s/p high-dose cytoxan for stem cell 
mobilization and is now s/p a Melphalan autologous transplant on 
___.  
She was in clinic and reports a fever to 101.7 at home and 
feeling somnolent. Per her daughter, she reports that her mother 
was sleepy and difficult to arouse from bed. She was not 
complaining of any ongoing 
nausea/vomiting/diarrhea/pain/shortness of breath. She felt as 
though she had the chills, so her daughter took her temperature 
and encouraged her to come to the clinic. While at the clinic, 
her VS were notable for a At ___, she was 100.6 and her HR 
was in the 130s so she was sent to ___ for a further work-up.  
Of note, her recent hospitalization for her autologous 
transplant was significant for a labial abscess (s/p 
Levequin/Flagyl with last dose on ___ and RUE ___ associated 
basiliac vein thrombus for which she has been on Lovenox. She 
says that she ran out of Lovenox on ___ and has since not 
been on any anti-coagulation.  
Her initial labs were notable for WBC 12.2 (N82.4, L12.8), Hb 
10.7, Hct 32.5, Plt 185. Na 137, Cr 1.0. LFTs wnl. UA negative. 
Urine and blood cultures were pending. CXR was wnl and her EKG 
was unchanged from priors without evidence of right heart 
strain.  

 
Past Medical History:
PMH/PSX:
- Asthma
- HTN
- TAH, tubal ligation

 
Social History:
___
Family History:
 Mother died of CRF complicated by CAD at age ___. Father died
of laryngeal cancer at ___. One sister with MM. One sister with
ovarian ___, One brother with liver CA. 10 healthy siblings

 
Physical Exam:
VITALS - T 99.9 120/88 127 20 100% on RA  
General: lying in bed, in NAD  
HEENT: MMM, PERRLA  
CV: tachycardic, regular, no murmurs  
Lungs: CTAB  
Abdomen: +BS, soft, NT/ND/NG/NR  
GU: labia without erythema, swelling or tenderness  
Ext: no c/c/e  
Neuro: responds appropriately, but slowly to questions, CNII-XII 
intact, strength ___, sensation intact  

 
Pertinent Results:
___ 06:40AM BLOOD WBC-3.2* RBC-2.81* Hgb-9.1* Hct-28.1* 
MCV-100* MCH-32.5* MCHC-32.5 RDW-15.7* Plt ___
___ 06:08AM BLOOD Neuts-58.1 ___ Monos-8.9 Eos-4.1* 
Baso-0.1
___ 06:40AM BLOOD Glucose-102* UreaN-5* Creat-0.8 Na-143 
K-4.2 Cl-105 HCO3-28 AnGap-14
___ 06:40AM BLOOD ALT-22 AST-17 LD(LDH)-179 AlkPhos-42 
TotBili-0.3
___ 06:40AM BLOOD Albumin-3.6 Calcium-9.5 Phos-4.4 Mg-1.8 
UricAcd-3.0
___ 06:05AM BLOOD IgG-789
 
Brief Hospital Course:
This is a ___ year old woman with Multiple Myeloma (diagnosed 
___ s/p RVD x 4 cycles, s/p high-dose cytoxan for stem cell 
mobilization and is now s/p a Melphalan autologous transplant on 
___ who presented with one isolated fever to 101.7 at home. 
She was initially started on vancomycin and meropenem that was 
subsequently narrowed to just meropenem on ___. Meropenem was 
discontinued ___.  She had no localizing symptoms and no 
cultures and so she was discharged on no antibiotics with 
instructions to call us or come to clinic if she has another 
fever.  Her uric acid levels were high when she arrived, so she 
was started on allopurinol.  Her diuretics were held on 
admission, but will be continued on discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 600 mg PO TID 
2. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
3. Acyclovir 400 mg PO Q8H 
4. Lorazepam 0.5-1 mg PO Q6H:PRN anxiety,nausea or vomiting if 
not relieved by ondansetron 
5. Amitriptyline 25 mg PO HS 
6. Ondansetron 8 mg PO Q8H:PRN nausea 
7. Pantoprazole 40 mg PO Q24H 
8. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
9. Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY 
10. Enoxaparin Sodium 120 mg SC DAILY 

 
Discharge Medications:
1. Enoxaparin Sodium 120 mg SC Q24H 
Start: ___, First Dose: Next Routine Administration Time 
RX *enoxaparin 120 mg/0.8 mL 120 mg SC q24h Disp #*30 Syringe 
Refills:*0
2. Acyclovir 400 mg PO Q8H 
3. Amitriptyline 25 mg PO HS 
4. Gabapentin 600 mg PO TID 
5. Lorazepam 0.5-1 mg PO Q6H:PRN anxiety,nausea or vomiting if 
not relieved by ondansetron 
6. Ondansetron 8 mg PO Q8H:PRN nausea 
7. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
8. Pantoprazole 40 mg PO Q24H 
9. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
10. Allopurinol ___ mg PO DAILY 
RX *allopurinol ___ mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
11. Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Fever
Multiple Myeloma s/p autologous HSCT
Peripheral Neuropathy
RUE ___ associated DVT

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___, 

It was a pleasure taking care of you. You were admitted for a 
fever at home and were treated with IV antibiotics that were 
stopped because there was no clear source and you did not spike 
fevers after antibiotics were stopped. Please return to the 
clinic or call us should you have any further fevers. You should 
also continue taking Lovenox injections. You were also started 
on allopurinol for elevated uric acid levels.

Regards, 
Your ___ TEam
 
Followup Instructions:
___